reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1](=[C:2]([C:3]([H:11])([H:12])[H:13])[H:10])([H:8])[H:9].[O:4]=[C:5]([O:6][H:7])[H:14]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([O:4][C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9],32.5646221912166
[C:1](/[N:2]=[C:3]1\[O:4][C@@:5]1([C:7]([H:16])([H:17])[H:18])[H:12])([H:8])([H:9])[H:10].[C:6]([H:11])([H:13])([H:14])[H:15]>>[C:1]([N:2]([C:3](=[O:4])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])[H:11])([H:8])([H:9])[H:10],43.68233422771
[C:1]([C@@:2]([O:3][C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[C:6]#[C:7][H:13])([H:8])([H:9])[H:10].[C:4](=[O:5])([H:11])[H:12],71.38023285555909
[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[O:5])[C:6]([H:13])([H:14])[H:15])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4]([O:5][H:15])=[C:6]([H:13])[H:14])([H:7])([H:8])[H:9],60.74328716428021
[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5](=[O:6])[H:15])([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5][O:6][H:15])([H:13])[H:14])([H:7])([H:8])[H:9],80.8199704596896
[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5]#[C:6][H:12])[H:10])([H:8])[H:9])[H:7]>>[H:9][H:11].[O:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][H:12])([H:8])[H:10])[H:7],91.233515013637
[C:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C:5]([H:12])([H:13])[C:4]1)([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]#[C:5][H:13])[H:9])([H:6])([H:7])[H:8],34.6504355930774
[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]([C:6](=[O:7])[H:16])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3](=[O:4])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[N:5]([C:6](=[O:7])[H:16])([H:14])[H:15],71.3505180670031
[C:1]([C:2]([O:5][C:4](=[C:3]([H:11])[H:12])[H:13])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([C:4](=[O:5])[H:13])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],75.32420417787631
[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5]#[C:6][H:12])[H:10])([H:8])[H:9])[H:7]>>[C:3]([O:4][H:7])([C:5]#[C:6][H:12])([H:10])[H:11].[O:1]=[C:2]([H:8])[H:9],97.7513734661139
[C:1]([C:2](=[O:3])[H:7])([H:4])([H:5])[H:6]>>[C:1](=[C:2]=[O:3])([H:4])[H:6].[H:5][H:7],81.0589275586481
[N:1]([N+:6]1([H:12])[C-:2]=[C:3]([H:9])[C:4]([H:10])=[C:5]1[H:11])([H:7])[H:8]>>[N:1]([c:2]1[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[n:6]1[H:12])([H:7])[H:8],29.784918568707
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]([H:15])([H:16])[H:17])([C:6]([H:18])([H:19])[H:20])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2][C:4]([C:5]([H:15])([H:16])[H:17])([C:6]([H:18])([H:19])[H:20])[H:14])([H:7])([H:8])[H:9].[C:3]([H:10])([H:11])([H:12])[H:13],92.4594798974626
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5](=[O:6])[H:14])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])=[C:5]([H:14])[O:6]1)([H:7])([H:8])[H:9],52.69915610523379
[N+:1]([C:2]([O-:3])=[C:4]([H:10])[H:11])([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9],66.8560196231992
[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([O+:5]=[C-:4][H:12])[H:13])([H:6])([H:7])[H:8]>>[C:1]([C:2]1([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[O:5]1)([H:6])([H:7])[H:8],29.9584234974673
[C-:5]#[O+:6].[C:1](/[N:2]=[C:3](/[N:4]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2](/[C:3](=[N:4]/[H:11])[H:10])[C:5](=[O:6])[H:12])([H:7])([H:8])[H:9],32.41842096021799
[C:1](/[C:2](=[N:3]\[H:11])[O:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])([H:8])([H:9])[H:10]>>[C-:6]#[O+:7].[C:1]([C@:2]1([N:3]([H:11])[H:14])[O:4][C:5]1([H:12])[H:13])([H:8])([H:9])[H:10],74.8965771034096
[C:1]1([H:7])([H:8])[O:2][C:3]12[C-:4]([H:10])[O+:5]=[C:6]2[H:11].[H:9][H:12]>>[C:1]1([H:7])([H:8])[O:2][C:3]12[C:4]([H:9])([H:10])[O:5][C:6]2([H:11])[H:12],7.471104224230402
[C:3]([O:4][H:12])(=[C:5]=[N:6][H:7])[H:11].[N:1](=[C:2]([H:9])[H:10])[H:8]>>[N:1]([C:2]([C@@:3]([O:4][H:12])([C:5]#[N:6])[H:11])([H:9])[H:10])([H:7])[H:8],13.654045916299893
[C:1]([N:2](/[C:3](=[N:4]\[H:12])[O+:6]=[C-:5][C:7]([H:13])([H:14])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2](/[C:3](=[N:4]\[H:12])[C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])[H:11])([H:8])([H:9])[H:10],31.0573439451311
[C:1](/[C:2](=[C:3](\[O:4][H:13])[H:12])[H:11])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:14])[H:15].[H:10][H:16]>>[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]([O:6][H:16])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],49.34927091949732
[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]=[C:3]1[C:4]([H:10])([H:11])[C@@:5]1([O:6][H:9])[H:12])([H:7])[H:8],58.012693375430295
[O:1]1[C@:2]2([H:7])[C:3]([H:8])([H:9])[C:4]([H:10])([H:11])[C:5][C@:6]12[H:12]>>[O:1]=[C:2]([C:3]([C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7],7.7074669108328
